US05561101
3-[(4,6-dimethoxy-2-pyrimidinyl)carbonyl]pyridine-2-carboxylic acid (Table E, cpd. no. 63)
490 mg of 5-(4,6-dimethoxy-2-pyrimidinyl)-furo[3,4-b]pyridine-7(5H)-one is dissolved in 50 ml of methanol and the mixture heated with stirring at 50° C. until a homogeneous solution is formed (ca 1/2 hr). 2.6 g of NaOCl is added dropwise and the solution heated for a further 1/2 hr at 55° C. 0.208 g of 50% NaOH is added at 55° and the mixture heated for a further 1/2 hr at this temperature and then cooled in an ice-bath and acidified with 1 ml conc. HCl. The solvent is evaporated and the residue partitioned between 50 ml of CH2Cl2 and 50 ml of water. The organic phase is concentrated to give a white solid, m.p. 71°-73°.

reactant | 5-(4,6-dimethoxy-2-pyrimidinyl)-furo[3,4-b]pyridine-7(5H)-one | 490 mg | COC1=NC(=NC(=C1)OC)C1OC(C2=NC=CC=C21)=O | C13H11N3O4
reactant | NaOCl | 2.6 g | [O-]Cl.[Na+]
reactant | NaOH | 0.208 g | [OH-].[Na+]
reactant | HCl | 1 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 3-[(4,6-dimethoxy-2-pyrimidinyl)carbonyl]pyridine-2-carboxylic acid | COC1=NC(=NC(=C1)OC)C(=O)C=1C(=NC=CC1)C(=O)O | C13H11N3O5
